US09029504B2
1-(3-Iodo-2,2-bis-octadecanoxymethyl-propoxy)octadecane (500 mg, 102 μmol) and 2-hydroxy-9-fluorenone (30 mg, 152 μmol) were dissolved in DMF (2 ml), potassium carbonate (21 mg, 152 μmol) was added, and the mixture was stirred at 130° C. After completion of the reaction, 0.5N hydrochloric acid (6 ml) was added, the precipitate was filtered, and the precipitate was washed with acetonitrile and water to give 2-(3-octadecyloxy-2,2-bis-octadecyloxymethyl-propoxy)-9-fluorenone (101 mg, 94 μmol).

reactant | 1-(3-Iodo-2,2-bis-octadecanoxymethyl-propoxy)octadecane | 102 μmol, 500 mg | ICC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C59H119IO3
reactant | 2-hydroxy-9-fluorenone | 152 μmol, 30 mg | OC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H8O2
reactant | potassium carbonate | 152 μmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.5N, 6 ml | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(3-octadecyloxy-2,2-bis-octadecyloxymethyl-propoxy)-9-fluorenone | 94 μmol, 101 mg | C(CCCCCCCCCCCCCCCCC)OCC(COC1=CC=2C(C3=CC=CC=C3C2C=C1)=O)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C72H126O5
